US09260408B2
[B] Potassium 2-(5-bromopyridin-3-yl)-2-methylpropanoate
In analogy to the procedure described for the preparation of example 59 [B], methyl 2-(5-bromopyridin-3-yl)-2-methylpropanoate (example 72 [A]) was reacted with 90% potassium trimethylsilanolate to give the title compound as a light brown solid. MS: 244.3 (M+H+).

reactant | methyl 2-(5-bromopyridin-3-yl)-2-methylpropanoate | BrC=1C=C(C=NC1)C(C(=O)OC)(C)C | C10H12BrNO2
reactant | potassium trimethylsilanolate | C[Si]([O-])(C)C.[K+]
product | Potassium 2-(5-bromopyridin-3-yl)-2-methylpropanoate | BrC=1C=C(C=NC1)C(C(=O)[O-])(C)C.[K+] | InChI=1S/C9H10BrNO2.K/c1-9(2,8(12)13)6-3-7(10)5-11-4-6;/h3-5H,1-2H3,(H,12,13);/q;+1/p-1
